* source ADDER
U_DSTM5         STIM(1,1) $G_DPWR $G_DGND N02530 IO_STM IO_LEVEL=0 
+ 0 0
+ +4m 1
+REPEAT FOREVER
+ +4m 0
+  +4m 1
+ ENDREPEAT
X_2B         N02624 N02652 M_UN0001 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM6         STIM(1,1) $G_DPWR $G_DGND N02640 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
X_2C         N02530 N02640 N02822 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_sumA         N02628 N02660 N02648 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_carryA         N02628 N02660 N02834 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM7         STIM(1,1) $G_DPWR $G_DGND N02652 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND N02628 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
X_C         N02822 N02872 M_UN0002 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_3B         N02624 N02652 N02872 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_1A         N02530 N02640 N02624 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM4         STIM(1,1) $G_DPWR $G_DGND N02660 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
