* source EXP_6
X_U1A         N00545 N00576 M_UN0001 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00576 N00616 M_UN0002 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N00665 N00656 N00692 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N00692 N00644 M_UN0003 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_Bin2         STIM(1,1) $G_DPWR $G_DGND N00545 IO_STM IO_LEVEL=0 
+ 0 0
+ +4m 1
+REPEAT FOREVER
+ +4m 0
+  +4m 1
+ ENDREPEAT
U_Bin1         STIM(1,1) $G_DPWR $G_DGND N00576 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
U_Bin0         STIM(1,1) $G_DPWR $G_DGND N00616 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
U_Gra2         STIM(1,1) $G_DPWR $G_DGND N00665 IO_STM IO_LEVEL=0 
+ 0 0
+ +4m 1
+REPEAT FOREVER
+ +4m 0
+  +4m 1
+ ENDREPEAT
U_Gra1         STIM(1,1) $G_DPWR $G_DGND N00656 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
U_Gra0         STIM(1,1) $G_DPWR $G_DGND N00644 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
