* source EXP_5
X_U1         0 N00220 N000562 N000563 N00232 LM741
V_V1         N000562 0 15
V_V2         0 N000563 15
R_R1         N00220 N00232  1M TC=0,0 
C_C1         N00220 N00232  0.01u  TC=0,0 
V_V4         N005612 0 15
R_R2         N00471 N00479  1M TC=0,0 
C_C2         N00471 N00479  0.01u  TC=0,0 
V_V3         0 N005271 15
X_U2         N00882 N00471 N005612 N005271 N00479 LM741
C_C3         0 N00882  0.01u  TC=0,0 
R_R3         0 N00882  1M TC=0,0 
V_V5         0 N016201 15
V_V6         N016542 0 15
C_C5         0 N01666  0.01u  TC=0,0 
R_R5         0 N01666  1M TC=0,0 
X_U3         N01666 N01584 N016542 N016201 N01584 LM741
