* source FLIP
X_U1A         N00278 $D_HI $D_HI N00271 N00287 M_UN0001 M_UN0002 $G_DPWR
+  $G_DGND 74111 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_J         STIM(1,1) $G_DPWR $G_DGND N00271 IO_STM IO_LEVEL=0 
+ 0 0
+ +4m 1
+REPEAT FOREVER
+ +4m 0
+  +4m 1
+ ENDREPEAT
U_C         STIM(1,1) $G_DPWR $G_DGND N00278 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
U_K         STIM(1,1) $G_DPWR $G_DGND N00287 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
U_D         STIM(1,1) $G_DPWR $G_DGND N00614 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
U_C1         STIM(1,1) $G_DPWR $G_DGND N00690 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
X_U2A         $D_HI N00614 N00690 $D_HI M_UN0003 M_UN0004 $G_DPWR $G_DGND 7474
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
