* source EXP_3
X_U1         0 N00314 N000562 N000563 N00437 LM741
R_R1         N00322 N00314  1k TC=0,0 
R_R2         N00314 N00405  1k TC=0,0 
R_R3         0 N00405  1k TC=0,0 
D_D1         N00314 N00437 D1N4001 
D_D2         N00437 N00405 D1N4001 
V_V1         0 N000563 15
V_V2         N000562 0 15
V_V3         N00322 0  
+SIN 0 0.5 1k 0 0 0
V_V4         0 N009661 15
R_R4         N00910 N00918  1k TC=0,0 
R_R5         N01032 N00910  1k TC=0,0 
X_U2         0 N00910 N010242 N009661 N01060 LM741
V_V6         N010242 0 15
V_V5         N01032 0  
+SIN 0 0.5 1k 0 0 0
D_D3         N00918 N01060 D1N4001 
D_D4         N01060 N01416 D1N4001 
V_V7         0 N015381 15
X_U3         N01416 N01588 N015802 N015381 N01592 LM741
V_V8         N015802 0 15
R_R7         N00918 N01588  1k TC=0,0 
R_R8         N01588 N01592  1k TC=0,0 
R_R9         N00910 N01416  1k TC=0,0 
