* source EXP_2
X_U1         N00371 N00331 N000562 N000563 N00316 LM741
R_R1         N00331 N00316  100k TC=0,0 
R_R2         N00335 N00331  10k TC=0,0 
R_R3         0 N00371  9.09k TC=0,0 
C_C1         N00331 N00316  16n  TC=0,0 
V_V1         N00335 0  
+PULSE 1 -1 0 1n 1n 0.5m 1m
V_V2         N000562 0 15
V_V3         0 N000563 15
C_C2         N00900 N00908  5n  TC=0,0 
R_R4         N00900 N00908  1.6k TC=0,0 
V_V5         N010182 0 15
R_R6         0 N01046  75.7 TC=0,0 
V_V4         0 N009761 15
V_V6         N01026 0  
+PULSE 1 -1 0 1n 1n 0.5m 1m
R_R5         N01232 N00900  79.5 TC=0,0 
X_U2         N01046 N00900 N010182 N009761 N00908 LM741
C_C3         N01026 N01232  0.1u  TC=0,0 
