* source EXP_1
X_U1         0 N00461 N000562 N00477 N00513 LM741
X_U2         N00605 N00662 N000862 N000863 N00689 LM741
R_R1         N00461 N00513  1k TC=0,0 
R_R2         N00457 N00461  1k TC=0,0 
R_R3         N00662 N00689  1k TC=0,0 
R_R4         0 N00662  1k TC=0,0 
V_V1         0 N00477 15
V_V2         N000562 0 15
V_V3         0 N000863 15
V_V4         N000862 0 15
V_V5         N00457 0  
+SIN 0 1 50 0 0 0
V_V6         N00605 0  
+SIN 0 1 50 0 0 0
