* source MULTI
X_U1         $D_LO $D_LO N00263 N00435 N00558 N01077 N01077 N00558 $D_LO N00558
+  N00558 $D_HI M_UN0001 M_UN0002 $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_A         STIM(1,1) $G_DPWR $G_DGND N00263 IO_STM IO_LEVEL=0 
+ 0 0
+ +4m 1
+REPEAT FOREVER
+ +4m 0
+  +4m 1
+ ENDREPEAT
U_B         STIM(1,1) $G_DPWR $G_DGND N00435 IO_STM IO_LEVEL=0 
+ 0 0
+ +2m 1
+REPEAT FOREVER
+ +2m 0
+  +2m 1
+ ENDREPEAT
U_C         STIM(1,1) $G_DPWR $G_DGND N00558 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
X_U2A         N00558 N01077 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
