* source EXP_4
X_U1         N00254 N00275 N000562 N000563 N00316 LM741
V_V1         0 N000563 15
V_V2         N000562 0 15
R_R1         N00275 N00316  4.5k TC=0,0 
R_R2         N00254 N00316  10k TC=0,0 
R_R3         0 N00254  10k TC=0,0 
C_C1         0 N00275  0.1u  TC=0,0 
X_U2         0 N00504 N004962 N004621 N00508 LM741
V_V4         N004962 0 15
V_V3         0 N004621 15
C_C2         N00504 N00508  0.1u  TC=0,0 
R_R4         N00504 N00508  1k TC=0,0 
R_R5         N00316 N00504  1k TC=0,0 
