* source LAST
X_U1A         $D_LO $D_LO N00902 $D_HI $D_HI N00344 M_UN0001 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         $D_LO $D_LO N00902 N00344 N00344 N00703 M_UN0002 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $D_LO $D_LO N00902 N01310 N01310 M_UN0003 M_UN0004 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00344 N00703 N01310 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00902 IO_STM IO_LEVEL=0 
+ 0 0
+ +1m 1
+REPEAT FOREVER
+ +1m 0
+  +1m 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N02382 IO_STM IO_LEVEL=0 
+ 0 0
+ +5u 1
+REPEAT FOREVER
+ +5u 0
+  +5u 1
+ ENDREPEAT
X_U4A         $D_LO $D_LO N02382 $D_HI $D_HI N02657 M_UN0005 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         $D_LO $D_LO N02657 $D_HI $D_HI N02669 M_UN0006 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         $D_LO $D_LO N02669 $D_HI $D_HI N02681 M_UN0007 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5B         $D_LO $D_LO N02681 $D_HI $D_HI M_UN0008 M_UN0009 $G_CD4000_VDD
+  $G_CD4000_VSS CD4027A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
